US06969716B2
5-[4-Fluoro-3-(pyridin-3-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine was coupled to 2-fluorophenylboronic acid by the method of Example 2 to give 3-(2-fluorophenyl)-5-[4-fluoro-3-(pyridin-3-yl)phenyl]-[1,2,4]triazine as a yellow solid: δH (400 MHz, CDCl3) 7.28-7.30 (1H, m), 7.33-7.47 (3H, m), 7.52-7.59 (1H, m), 7.97 (1H, dd, J 2.0, 8.2 Hz), 8.25-8.32 (2H, m), 8.44 (1H, dd, J 2.3, 7.4 Hz), 8.70 (1H, d, J 2.7 Hz), 8.89 (1H, s), 9.67 (1H, s); m/z (ES+) 347.

reactant | 5-[4-Fluoro-3-(pyridin-3-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine | FC1=C(C=C(C=C1)C=1N=C(N=NC1)SC)C=1C=NC=CC1 | C15H11FN4S
reactant | 2-fluorophenylboronic acid | FC1=C(C=CC=C1)B(O)O | C6H6BFO2
product | 3-(2-fluorophenyl)-5-[4-fluoro-3-(pyridin-3-yl)phenyl]-[1,2,4]triazine | FC1=C(C=CC=C1)C=1N=NC=C(N1)C1=CC(=C(C=C1)F)C=1C=NC=CC1 | C20H12F2N4
